US08048862B2
Preparation of 2-(4-isopropylthiazol-2-yl)-4-hydroxy-7-methoxy-8-methyl-quinoline
Sodium tert-butoxide (3.20 g, 28.6 mmol., 2.1 eq.) was added portion wise, at ambient temperature, to a solution of 1-acetyl-2-[(4-isopropyl-thiazol-2-yl)-carbonylamino]-3-methyl-4-methoxy-benzene (4.52 g, 13.6 mmol., 1.0 eq.) in dry tert-butanol (45 mL). The reaction mixture was stirred at 90° C. for 4 hours. LCMS analysis showed the reaction to be complete. The reaction mixture was left to cool to ambient temperature and then diluted with ethyl acetate (100 mL). The organic layer was washed with 1M aqueous potassium hydrogen sulphate (75 mL), water (50 mL), brine (50 mL), dried over sodium sulphate, filtered and the solvent removed under vacuum to give 4.63 g (99%) of the title compound as an off white solid. 1H NMR (500 MHz, CDCl3) δ ppm 9.59 (br. s, 1 H), 8.26 (d, J=9.16 Hz, 1 H), 7.10 (s, 1 H), 7.03 (d, J=9.16 Hz, 1 H), 6.77 (s, 1 H), 3.98 (s, 3 H), 3.20 (spt, J=6.87 Hz, 1 H), 2.43 (s, 3 H), 1.39 (d, J=7.02 Hz, 6 H). LC-MS: 95% (UV), tR 2.24 min, m/z [M+1]+ 315.15.

reactant | Sodium tert-butoxide | 28.6 mmol, 3.20 g, 2.1 eq. | CC(C)([O-])C.[Na+]
reactant | 1-acetyl-2-[(4-isopropyl-thiazol-2-yl)-carbonylamino]-3-methyl-4-methoxy-benzene | 13.6 mmol, 4.52 g, 1.0 eq. | C(C)(=O)C1=C(C(=C(C=C1)OC)C)NC(=O)C=1SC=C(N1)C(C)C | C17H20N2O3S
solvent | tert-butanol | 45 mL | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-(4-isopropylthiazol-2-yl)-4-hydroxy-7-methoxy-8-methyl-quinoline | 4.63 g, 99% | C(C)(C)C=1N=C(SC1)C1=NC2=C(C(=CC=C2C(=C1)O)OC)C | C17H18N2O2S
